US08202511B2
5-(2-Hydroxy-acetylamino)-N-(2-hydroxy-1-hydroxymethyl-ethyl)-N′-{3-[3-(2-hydroxy-1-hydroxymethyl-ethylcarbamoyl)-5-(2-Hydroxy-acetylamino)-2,4,6-triiodo-benzoylamino]-propyl}-2,4,6-triiodo-isophthalamide
The crude Acetic acid 3-acetoxy-2-[3-{3-[3-(2-acetoxy-1-acetoxymethyl-ethylcarbamoyl)-5-(2-acetoxy-acetylamino)-2,4,6-triiodo-benzoylamino]-propylcarbamoyl}-5-(2-acetoxy-acetylamino)-2,4,6-triiodo-benzoylamino]-propyl ester (1.5 g) was dissolved in methanol (10 ml) and water (10 ml) was added. Concentrated aqueous ammonia (3 ml) was added and the solution stirred at ambient temperature for 18 h. The reaction was evaporated to dryness, the residue dissolved in water and purified by preparative hplc to give the title product as a white solid after freeze drying.

reactant | Acetic acid 3-acetoxy-2-[3-{3-[3-(2-acetoxy-1-acetoxymethyl-ethylcarbamoyl)-5-(2-acetoxy-acetylamino)-2,4,6-triiodo-benzoylamino]-propylcarbamoyl}-5-(2-acetoxy-acetylamino)-2,4,6-triiodo-benzoylamino]-propyl ester | 1.5 g | C(C)(=O)OCC(COC(C)=O)NC(C1=C(C(=C(C(=C1I)NC(COC(C)=O)=O)I)C(NCCCNC(C1=C(C(=C(C(=C1I)NC(COC(C)=O)=O)I)C(NC(COC(C)=O)COC(C)=O)=O)I)=O)=O)I)=O | C41H44I6N6O18
reactant | water | 10 ml | O | H2O
reactant | ammonia | 3 ml | N | H3N
solvent | methanol | 10 ml | CO | CH4O
product | 5-(2-Hydroxy-acetylamino)-N-(2-hydroxy-1-hydroxymethyl-ethyl)-N′-{3-[3-(2-hydroxy-1-hydroxymethyl-ethylcarbamoyl)-5-(2-Hydroxy-acetylamino)-2,4,6-triiodo-benzoylamino]-propyl}-2,4,6-triiodo-isophthalamide | OCC(=O)NC=1C(=C(C(=C(C(=O)NC(CO)CO)C1I)I)C(=O)NCCCNC(C1=C(C(=C(C(=C1I)NC(CO)=O)I)C(NC(CO)CO)=O)I)=O)I | C29H32I6N6O12
